US06972333B2
Quinacridone (50 grams) was dispersed in water (1000 grams) and potassium hydroxide (50 grams) was added. The resulting slurry was then heated to 65° C. and sodium peroxydisulfate (200 grams) was added over a 6 hour period. The resulting slurry was stirred continuously for 8 hours at 65° C. then filtered. The resulting presscake was washed with water to neutral and dried. 55 grams of bright yellow highly pure quinacridonequinone was produced.

reactant | Quinacridone | 50 grams | C1=CC=C2C(=C1)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=CC=CC=C5N4 | C20H12N2O2
reactant | potassium hydroxide | 50 grams | [OH-].[K+]
reactant | sodium peroxydisulfate | 200 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | water | 1000 grams | O | H2O
product | quinacridonequinone | C1=CC=C2C(=C1)C(=O)C3=C(N2)C(=O)C4=C(C3=O)NC5=CC=CC=C5C4=O | C20H10N2O4
